datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[C:11](C)[CH:10]2[CH:20](CC(C)C2=C(C)C=C(C)C=C2C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
"C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>C[C+:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34])[CH2:62][Si:63](Cl)(Cl)Cl 10,11=10,20;20,21=21"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C1CC[N+:12](=[C:11]2CCC[CH:10]2[CH:20]2[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]2=[O:33])CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[CH:11]=[N+:12](C)[C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([CH:10]([CH:11]=[O:12])[P+:61](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10,11=10,20;12=11,12"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62]>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[C:63]1=[C:62]([N:61]2[C:10]([CH:20]3C=CC4C5C6C3[Fe-3:21]456(C#[O+])(C#[O+])C#[O+])=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1 10=20;20,21=21"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[C:61]([O-:10])=[O:62]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([O:10][C:61](C)=[O:62])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:62]2[P:11]([H:10])[N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CC1=CC(C)=C([N:62]2[P+:11][N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.ClC[N+]12CC[N:21](CC1)CC2.[H:10][F:20] 10,11=10,20;20,21=21"
"C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
"CC[N+](CC)(CC)[BH2-:11][H:10].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>CC[N+](CC)(CC)[BH2:11].C[N:33](C)[C:22](=[CH:21][CH2:20][H:10])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[S-:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.[N:10](=[O:61])[O-:71]>>C1=CC=C([N-:21][C:20]([N+:10](=[O:61])[O-:71])=[N:31]C2=CC=CC=C2)C=C1 10=20;20,21=21"
"CC[O:12][CH:11](C)[H:10].[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>CC[O+:12]=[CH:11]C.[H:10][F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;12=11,12;20,21=21"
